US04804400
A mixture of 9.4 g (0.03 mol) of N-(2-fluoro-4-chloro-5-isopropoxyphenyl)-2,3-dimethylmaleic acid imide and 500 mg of platinum oxide (PtO2) in 100 ml of ethyl acetate is hydrogenated with hydrogen at room temperature under normal pressure. After about 5 hours, when the absorption of hydrogen has ceased, the catalyst is filtered off and the filtrate is concentrated to dryness. 7.9 g (85% of the theoretical yield) of an almost colourless oil which is uniform in a thin-layer chromatogram are obtained as residue and crystallised from isopropyl ether. The cis-N-(2-fluoro-4-chloro-5-isopropoxyphenyl)-2,3-dimethyl-succinimide so obtained has a melting point of 101°-102°.

reactant | N-(2-fluoro-4-chloro-5-isopropoxyphenyl)-2,3-dimethylmaleic acid imide | 0.03 mol, 9.4 g | FC1=C(C=C(C(=C1)Cl)OC(C)C)N1C(C(=C(C1=O)C)C)=O | C15H15ClFNO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 500 mg | [Pt]=O
product | cis-N-(2-fluoro-4-chloro-5-isopropoxyphenyl)-2,3-dimethyl-succinimide | FC1=C(C=C(C(=C1)Cl)OC(C)C)N1C([C@H]([C@H](C1=O)C)C)=O | C15H17ClFNO3
